### PR TITLE
[Merged by Bors] - chore: golf using `grind` and `simp`

### PR DESCRIPTION
**Pull request by euprunin**
---
Trace profiling results (shown if ≥10 ms before or after):
* `Int.odd_iff`: 33 ms before, 40 ms after
* `Int.even_sign_iff`: 97 ms before, 104 ms after
* `BoundedContinuousFunction.ext_of_char_eq`: 344 ms before, 281 ms after  🎉
* `Finsupp.extendDomain_subtypeDomain`: 141 ms before, 127 ms after  🎉
* `MeasureTheory.condExp_min_stopping_time_ae_eq_restrict_le`: 19 ms before, 17 ms after  🎉
* `Ideal.isCoprime_biInf`: 120 ms before, 11 ms after  🎉
* `isOpen_inter_eq_singleton_of_mem_discrete`: <10 ms before, 25 ms after

This golfing PR is batched under the following guidelines:
* Up to ~5 changed files per PR
* Up to ~25 changed declarations per PR
* Up to ~100 changed lines per PR

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Process/Stopping.lean [hunk 1]
```diff
@@ -1315,11 +1315,11 @@ theorem condExp_min_stopping_time_ae_eq_restrict_le [SecondCountableTopology ι]
     haveI h_le : (hτ.min hσ).measurableSpace ≤ hτ.measurableSpace := by
       rw [IsStoppingTime.measurableSpace_min]
       · exact inf_le_left
-      · simp_all only
```
Comment (themathqueen) [inline Mathlib/Probability/Process/Stopping.lean:1318]: I think you can just change this to something like:
```lean
    haveI h_le : (hτ.min hσ).measurableSpace ≤ hτ.measurableSpace :=
      IsStoppingTime.measurableSpace_min _ hσ ▸ inf_le_left
```

Comment (euprunin) [reply Mathlib/Probability/Process/Stopping.lean:1318]: Thanks a lot for reviewing! Now implemented.

File: Mathlib/Probability/Process/Stopping.lean [hunk 2]
```diff
@@ -1312,14 +1312,12 @@ theorem condExp_min_stopping_time_ae_eq_restrict_le [SecondCountableTopology ι]
...
-      rw [IsStoppingTime.measurableSpace_min]
-      · exact inf_le_left
-      · simp_all only
+    haveI h_le : (hτ.min hσ).measurableSpace ≤ hτ.measurableSpace :=
+      IsStoppingTime.measurableSpace_min _ hσ ▸ inf_le_left
     sigmaFiniteTrim_mono _ h_le
   refine (condExp_ae_eq_restrict_of_measurableSpace_eq_on hτ.measurableSpace_le
     (hτ.min hσ).measurableSpace_le (hτ.measurableSet_le_stopping_time hσ) fun t => ?_).symm
-  rw [Set.inter_comm _ t, IsStoppingTime.measurableSet_inter_le_iff]; simp_all only
+  rw [Set.inter_comm _ t, IsStoppingTime.measurableSet_inter_le_iff]; exact hσ
```
Comment (themathqueen) [inline Mathlib/Probability/Process/Stopping.lean]: same thing here, this should work:
```suggestion
  rw [Set.inter_comm _ t, hτ.measurableSet_inter_le_iff hσ]
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 3]
```diff
@@ -1312,14 +1312,12 @@ theorem condExp_min_stopping_time_ae_eq_restrict_le [SecondCountableTopology ι]
     [SigmaFinite (μ.trim (hτ.min hσ).measurableSpace_le)] :
     μ[f|(hτ.min hσ).measurableSpace] =ᵐ[μ.restrict {x | τ x ≤ σ x}] μ[f|hτ.measurableSpace] := by
   have : SigmaFinite (μ.trim hτ.measurableSpace_le) :=
-    haveI h_le : (hτ.min hσ).measurableSpace ≤ hτ.measurableSpace := by
-      rw [IsStoppingTime.measurableSpace_min]
-      · exact inf_le_left
-      · simp_all only
+    haveI h_le : (hτ.min hσ).measurableSpace ≤ hτ.measurableSpace :=
+      IsStoppingTime.measurableSpace_min _ hσ ▸ inf_le_left
     sigmaFiniteTrim_mono _ h_le
```
Comment (themathqueen) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
    sigmaFiniteTrim_mono _ (hτ.measurableSpace_min hσ ▸ inf_le_left)
```

File: Mathlib/Probability/Process/Stopping.lean (hunk 2 above)
Comment (euprunin) [reply Mathlib/Probability/Process/Stopping.lean]: That's nicer! Now implemented. Thanks!

File: Mathlib/Probability/Process/Stopping.lean (hunk 3 above)
Comment (euprunin) [reply Mathlib/Probability/Process/Stopping.lean]: That's nicer! Now implemented. Thanks!

File: Mathlib/Algebra/Ring/Int/Parity.lean [hunk 4]
```diff
@@ -27,7 +27,7 @@ variable {m n : ℤ}
 
 @[grind =]
 lemma odd_iff : Odd n ↔ n % 2 = 1 where
-  mp := fun ⟨m, hm⟩ ↦ by simp [hm, add_emod]
+  mp := fun ⟨m, hm⟩ ↦ by grind
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/Int/Parity.lean:30]: you can leave it, but this is a borderline change.

**Review by j-loreaux — COMMENTED** [review]
Nice, thanks! @euprunin please note my one minor comment for future reference.

bors merge

File: Mathlib/Algebra/Ring/Int/Parity.lean (hunk 4 above)
Comment (euprunin) [reply Mathlib/Algebra/Ring/Int/Parity.lean:30]: Thanks for reviewing! Will keep that in mind going forward.
